US20010044538A1
1-Tert-butoxycarbonyl-3-(4-fluorophenyl)-7-methylthio-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine (29 mg, 0.064 mmol was dissolved in dimethylsulfoxide (1 ml) and the solution was heated to 73° C. After 20 h, the solution was cooled and partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give 3-(4-fluorophenyl)-7-methylthio-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine.

reactant | 1-Tert-butoxycarbonyl-3-(4-fluorophenyl)-7-methylthio-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine | C(C)(C)(C)OC(=O)N1C(=C(C2=NC=CC(=C21)SC)C2=CC=C(C=C2)F)C2=CC=NC=C2 | C24H22FN3O2S
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 3-(4-fluorophenyl)-7-methylthio-2-(pyridin-4-yl)-pyrrolo[3,2-b]pyridine | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2SC)C2=CC=NC=C2 | C19H14FN3S
